US03933826
1.9 g of 10-hydroxy-2,3,11-trimethoxy-5,6,13,13a-tetrahydro-8H-dibenzo[a, g]quinolizine hydrochloride was treated in the same manner as described in Example 6, using 2.0 g of 3,4-dimethoxycinnamoyl chloride and 20 ml of anhydrous pyridine and there was obtained 1.0 g (38.4% yield) of 5,6,13,13a-tetrahydro-2,3,11-trimethoxy-10-(3', 4'-dimethoxycinnamoyloxy)-8H-dibenzo[a, g] quinolizine as a pale brown powder. The methiodide derived from this compound was found to be in agreement with the methiodide of the compound obtained in Example 4 as determined from the melting point and IR spectrum.

reactant | 10-hydroxy-2,3,11-trimethoxy-5,6,13,13a-tetrahydro-8H-dibenzo[a, g]quinolizine hydrochloride | 1.9 g | Cl.OC=1C(=CC2=C(CN3CCC4=C(C3C2)C=C(C(=C4)OC)OC)C1)OC
reactant | 3,4-dimethoxycinnamoyl chloride | 2.0 g | COC=1C=C(C=CC(=O)Cl)C=CC1OC | C11H11ClO3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 5,6,13,13a-tetrahydro-2,3,11-trimethoxy-10-(3', 4'-dimethoxycinnamoyloxy)-8H-dibenzo[a, g] quinolizine | 1.0 g, 38.4% yield | COC=1C(=CC2=C(C3CC4=C(CN3CC2)C=C(C(=C4)OC)OC(C=CC4=CC(=C(C=C4)OC)OC)=O)C1)OC | C31H33NO7
